* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Stable_operation.asc
XU3 N024 N022 +5 -5 N019 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N019 N022 300K
R12 N024 0 10K
R10 N024 N023 100K
XU1 N026 N021 +5 -5 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N026 0.1µ
R1 N026 Tpre 10K
R15 N053 Tpost 10K
R3 N014 N021 10K
R11 N024 N016 100K
XU2 N025 N020 +5 -5 N023 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N020 D
D2 P001 N025 D
R7 N023 N025 1Meg
R8 0 N025 620K
R5 P001 0 100K
C2 P001 N014 0.02µ
R6 N023 N020 20K
C3 N020 0 220n
R13 0 N022 10K
D3 N019 P002 D
R9 N024 -5 100K
XU5 N052 N037 +5 -5 N050 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N037 D
D5 P003 N052 D
R21 N050 N052 1Meg
R22 0 N052 620K
R19 P003 0 100K
R20 N050 N037 20K
C6 N037 0 220n
C5 P003 N016 0.02µ
XU6 N051 N046 +5 -5 N034 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N034 N046 300K
R26 N051 0 10K
R24 N051 N050 100K
R25 N051 N014 100K
R27 0 N046 10K
D6 N034 P004 D
R23 N051 -5 100K
R33 Inhibitor N018 50K
R31 N018 P002 15K
R32 N029 N018 15K
R4 N014 N026 1Meg
R2 N021 0 1Meg
XU4 N053 N038 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N053 0.1µ
R17 N016 N038 10K
R18 N016 N053 1Meg
R16 N038 0 1Meg
XU8 0 N018 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N029 N035 10K
XU7 0 N035 +5 -5 N029 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N035 P004 10K
C7 Inhibitor N018 0.05µ
XU9 N015 N011 +5 -5 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N007 N011 150K
R43 N015 0 10K
R41 N015 N014 100K
R44 0 N011 10K
R40 N015 N010 100K
R39 0 N010 100K
R38 N010 -5 50K
D7 N007 Sombrero D
R48 N012 N005 120K
XU10 N013 N005 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N005 Sombrero 100K
R47 N013 Sombrero 100K
Q2 N013 N017 0 0 NPN
R51 Hebbian N006 20K
R49 N006 N012 15K
R50 0 N006 15K
XU11 0 N006 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N006 0.05µ
R71 N017 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
R42 N015 N016 100K
V5 N048 0 PULSE(0 3 0 0 0 0.4m 1.23m)
XU12 N049 N033 +5 -5 N047 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R35 N047 N033 10K
R36 N047 N049 1Meg
R37 0 N033 1Meg
C9 N049 0 0.1µ
XU13 N047 N039 +5 -5 N043 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 +5 N039 65K
R53 N039 -5 100K
C10 N044 N043 0.001µ
R54 N044 0 100K
D8 N044 N045 D
XU14 N045 N032 +5 -5 N040 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N040 N045 0.1Meg
R56 N045 0 400K
R57 N040 N032 150K
C11 N032 0 40n
D9 0 N032 D
C12 N041 N040 0.001µ
D10 N041 N042 D
R58 N041 0 100K
XU15 N042 N030 +5 -5 N031 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R59 N031 N042 0.1Meg
R60 N042 0 100K
R61 N031 N030 150K
C13 N030 0 20n
D11 0 N030 D
D12 N040 N055 D
R62 N054 N055 1.5Meg
XU16 0 N054 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R63 N028 N054 1Meg
R64 N028 N049 15K
XU17 Tpre3 N008 +5 -5 N009 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R67 N008 0 100K
R68 N009 N008 100K
XU18 Tpre2 N003 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R69 N003 0 100K
R70 N004 N003 100K
XU19 Tpre1 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R72 N001 0 100K
R73 N002 N001 100K
V6 Tpre1 0 PULSE(0 3 0 0 0 2m 10.7m) Rser=0.0001
V7 Tpre2 0 PULSE(0 3 0 0 0 2m 10.6m) Rser=0.0001
V8 Tpre3 0 PULSE(0 3 0 0 0 2m 10.5m) Rser=0.0001
R34 N049 N048 10k
XU20 N036 N027 +5 -5 Tpost level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R65 N027 -5 100K
R66 Tpost N027 30K
R74 N036 N031 100K
R75 0 N036 30K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
